US04489003
3.5 g (7.7 mmol) of tert.butyl (S)-12,12a-dihydro-8-iodo-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate, 10 g (116 mmol) of cyclopentanol and 0.8 g (3 mmol) of tetraethyl orthotitanate are stirred at 125° overnight, the solution obtained is evaporated and the residue is taken up in chloroform. The solution obtained is stirred for 0.5 hour with 40 ml of a saturated potassium fluoride solution, the resulting emulsion is filtered over siliceous earth, the organic phase is separated, washed with water, dried over magnesium sulphate and evaporated. By a rapid filtration through about 200 g of silica gel while eluting with ethyl acetate and subsequent crystallization from ethyl acetate there is obtained cyclopentyl (S)-12,12a-dihydro-8-iodo-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate of melting point 184°-185°.

reactant | tert.butyl (S)-12,12a-dihydro-8-iodo-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate | 7.7 mmol, 3.5 g | IC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OC(C)(C)C)CC1)=O | C18H18IN3O3
reactant | cyclopentanol | 116 mmol, 10 g | C1(CCCC1)O | C5H10O
catalyst | tetraethyl orthotitanate | 3 mmol, 0.8 g | CCO.CCO.CCO.CCO.[Ti]
solvent | potassium fluoride | 40 ml | [F-].[K+]
product | cyclopentyl (S)-12,12a-dihydro-8-iodo-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate | IC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OC3CCCC3)CC1)=O | C19H18IN3O3
